US07750003B2
3-Cyclopropyl-1-[4-[4-(2-ethylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea
The following compounds were made in an analogous fashion from either phenyl N-[4-[4-(2-ethylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate or phenyl N-[4-[4-(ethylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate and the appropriate amine.

reactant | phenyl N-[4-[4-(2-ethylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | C(C)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C27H32N4O5S
reactant | phenyl N-[4-[4-(ethylsulfonylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | C(C)S(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C25H28N4O5S
product | 3-Cyclopropyl-1-[4-[4-(2-ethylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea | C1(CC1)NC(NC1=CC=C(C=C1)C1=NC(=CC(=N1)C(C)(C)S(=O)(=O)CC)N1[C@H](COCC1)C)=O | C24H33N5O4S
